US07514567B2
(R)-3′-(Furan-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Preparation 3 from (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 2-bromofuran. The title compound (1.49 g) was obtained as a pale-yellow solid, m/z 249 (MH+).

reactant | (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | O1C(NC[C@@]12CN1CCC2CC1)=O | C9H14N2O2
reactant | 2-bromofuran | BrC=1OC=CC1 | C4H3BrO
product | (R)-3′-(Furan-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 1.49 g | O1C(=CC=C1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H16N2O3
